US07705025B2
5-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carboxylic acid dimethylamide
The title compound is prepared in a manner substantially analogous to General Procedure D in 10 mL 10% DMF/dichloromethane using 4-(5-dimethylcarbamoyl-thiophen-2-yl)-benzoic acid (88 mg, 0.32 mmol), EDC-HCl (86 mg, 0.45 mmol), HOBt (61 mg, 0.45 mmol), DIEA (0.14 mL, 0.80 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (46 mg, 0.30 mmol) to give the title compound (100 mg, 81% yield). MS (ES+) 412.3 (M+H)+

reactant | 4-(5-dimethylcarbamoyl-thiophen-2-yl)-benzoic acid | 0.32 mmol, 88 mg | CN(C(=O)C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1)C | C14H13NO3S
reactant | EDC-HCl | 0.45 mmol, 86 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.45 mmol, 61 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.80 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.30 mmol, 46 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 10 mL | CN(C)C=O.ClCCl
product | 5-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carboxylic acid dimethylamide | 100 mg, 81% yield | CN(C(=O)C=1SC(=CC1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)C | C23H29N3O2S
